US05455253
4-(3-Bromophenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone.
A mixture of 3-bromobenzaldehyde (2.0 g), 1,3-cyclohexanedione (1.27 g) and ethanol (30 mL) was heated at reflux for three hours. Acetone (0.75 g), ammonium acetate (1.25 g) and a solution of pyrrolidine acetate (1.89 g) in 4 mL of ethanol was added and refluxing continued overnight. The mixture was cooled, filtered and the filtrate concentrated in vacuo. Chromatography (eluant: methylene chloride/methanol; 98/2) and trituration with ethyl ether provided the title compound (0.28 g) as a yellow solid, mp 187°-191° C.; NMR: 1.73 (s,3, CH3), 1.80-1.90 (m,2, CH2), 2.10-2.18 (m,2, CH2), 2.40-2.45 (m,2, CH2), 4.39 (d,1, J=4.7, CH), 4.59 (d,1, J=4.7, CH), 7.12-7.28 (m,4, Ar), 8.50 (s,1, NH; (CI, CH4) MS: m/z=320(M+1). Analysis for C 16 H16BrNO: Calculated C, 60.39; H, 5.07; N, 4.40; Found: C, 60.19; H, 5.27; N, 4.10.

reactant | 3-bromobenzaldehyde | 2.0 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | 1,3-cyclohexanedione | 1.27 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 1.25 g | C(C)(=O)[O-].[NH4+]
reactant | pyrrolidine acetate | 1.89 g | C(C)(=O)O.N1CCCC1
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | Acetone | 0.75 g | CC(=O)C | C3H6O
product | 4-(3-Bromophenyl)-2-methyl-4,6,7,8-tetrahydro-5(1H)-quinolone | 0.28 g | BrC=1C=C(C=CC1)C1C=C(NC=2CCCC(C12)=O)C | C16H16BrNO
